US05532235
N-[4-[(4,10-Dihydro-5H-pyrido[3,2-b]thieno[2,3-e]azepin-5-yl-carbonyl]-3-chlorophenyl]-5-fluoro -2-methylbenzamide
To a solution of 2 mmol of 5-(2-chloro-4-aminobenzoyl)-4,10-dihydro-5H-pyrido[3,2-b]thieno[2,3-e]azepine and 10 mmol of triethylamine in 25 ml of dichloromethane is added 2.1 mmol of 5-fluoro-2-methylbenzoyl chloride. After stirring at room temperature overnight, the mixture is washed with H2O, 1M NaHCO3 and brine. The solution is dried (Na2SO4) and the solvent removed to give the product as a solid.

reactant | 5-(2-chloro-4-aminobenzoyl)-4,10-dihydro-5H-pyrido[3,2-b]thieno[2,3-e]azepine | 2 mmol | ClC1=C(C(=O)N2C3=C(CC4=C(C2)C=CS4)N=CC=C3)C=CC(=C1)N | C18H14ClN3OS
reactant | triethylamine | 10 mmol | C(C)N(CC)CC | C6H15N
reactant | 5-fluoro-2-methylbenzoyl chloride | 2.1 mmol | FC=1C=CC(=C(C(=O)Cl)C1)C | C8H6ClFO
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
product | 4-[(4,10-Dihydro-5H-pyrido[3,2-b]thieno[2,3-e]azepin-5-yl-carbonyl]-3-chlorophenyl]-5-fluoro -2-methylbenzamide | S1C=CC2=C1CC1=C(N(C2)C(=O)C2=C(C=CC=C2Cl)C2=CC(=C(C(=O)N)C=C2F)C)C=CC=N1 | C26H19ClFN3O2S
